US05112836
1,2,3,4-Tetrahydroquinoline-4,6,8-tricarboxylic acid
A solution of 6-carbamoyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid (1.77 g) in 10% aqueous sodium hydroxide solution (20 ml) was refluxed for 10 hours and after cooling, adjusted to pH 1. The resulting precipitate was collected by filtration, washed with water and dried to give the title compound (1.29 g, 72.9%) which was recrystallized from ethanol to white crystals, mp 240° C.-241° C.

reactant | 6-carbamoyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid | 1.77 g | C(N)(=O)C=1C=C2C(CCNC2=C(C1)C(=O)O)C(=O)O | C12H12N2O5
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 1,2,3,4-Tetrahydroquinoline-4,6,8-tricarboxylic acid | 1.29 g, 72.9% | N1CCC(C2=CC(=CC(=C12)C(=O)O)C(=O)O)C(=O)O | C12H11NO6
